US08877772B2
Preparation of 5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine (Intermediate CH)
5-Bromo-1H-pyrrolo[2,3-b]pyridine (1.54 g, 7.83 mmol), 3,4,5-trimethoxyphenylboronic acid (1.83 g, 8.61 mmol) and dichlorobis(triphenylphosphine)palladium (II) (275 mg, 0.39 mmol) were combined in CH3CN (10 ml) and 1 M Na2CO3 (10 ml) and reacted in a microwave reactor for 5 min at 150° C. EtOAc was added and the mixture was washed with water, brine, dried, evaporated and purified by silica gel chromatography using 0-2% MeOH:DCM to yield 1.86 g (84%) of the title compound. 1H NMR (CDCl3, 300 MHz): δ 9.9 (bs, 1H), 8.54 (d, J=2.1 Hz, 1H), 8.11 (d. J=2.1 Hz, 1H), 7.41 (t, J=2.1 Hz, 1H), 6.82 (s, 2H), 6.58 (t, J=1.5 Hz, 1H), 3.96 (s, 6H), 3.92 (s, 3H).

reactant | 5-Bromo-1H-pyrrolo[2,3-b]pyridine | 7.83 mmol, 1.54 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | 3,4,5-trimethoxyphenylboronic acid | 8.61 mmol, 1.83 g | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | Na2CO3 | 1 M, 10 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 10 ml | CC#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.39 mmol, 275 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | 1.86 g, 84% | COC=1C=C(C=C(C1OC)OC)C=1C=C2C(=NC1)NC=C2 | C16H16N2O3
